US07285568B2
0.65 g (1.3 mmol) of methyl 3-{3′-[(tert-butoxycarbonylmethylamino)methyl]biphenyl-4-yl}-2-ethoxypropionate is placed in 10 ml of tetrahydrofuran, 0.5 ml of methanol and 1.9 ml (1.9 mmol) of aqueous 1M lithium hydroxide solution. After stirring at room temperature for 2 hours, the reaction medium is diluted with ethyl acetate, acidified to pH 6 with aqueous 1N hydrochloric acid solution, extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated. 0.54 g of 3-{3′-[(tert-butoxycarbonylmethylamino)methyl]biphenyl-4-yl}-2-ethoxypropionic acid is obtained in a yield of 92%.

reactant | methyl 3-{3′-[(tert-butoxycarbonylmethylamino)methyl]biphenyl-4-yl}-2-ethoxypropionate | 1.3 mmol, 0.65 g | C(C)(C)(C)OC(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)OC)OCC | C25H33NO5
reactant | methanol | 0.5 ml | CO | CH4O
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{3′-[(tert-butoxycarbonylmethylamino)methyl]biphenyl-4-yl}-2-ethoxypropionic acid | 0.54 g, yield of 92% | C(C)(C)(C)OC(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)O)OCC | C24H31NO5
